US04614830
The crude products of the foregoing examples containing minor amounts of acid-acceptor amine hydrochloride can be used without further purification in the reduction step to produce the corresponding phenylethanolamine compound. For example, a sample of 3,4-bis(p-toluyloxy)phenyl N-(tert-butyl)aminomethyl ketone hydrochloride containing about 6 percent of tributylamine hydrochloride was reduced with sodium borohydride to give 3,4-bis(p-toluyloxy)-α-[(tert-butylamino)methyl]benzyl alcohol (bitolterol) in greater than 90% yield.

reactant | 3,4-bis(p-toluyloxy)phenyl N-(tert-butyl)aminomethyl ketone hydrochloride | Cl.C(C)(C)(C)NCC(=O)C1=CC(=C(C=C1)OC1=CC=C(C=C1)C)OC1=CC=C(C=C1)C
reactant | tributylamine hydrochloride | Cl.C(CCC)N(CCCC)CCCC
reactant | sodium borohydride | [BH4-].[Na+]
product | 3,4-bis(p-toluyloxy)-α-[(tert-butylamino)methyl]benzyl alcohol | greater than 90% yield | C1(=CC=C(C=C1)OC=1C=C(C(CNC(C)(C)C)O)C=CC1OC1=CC=C(C=C1)C)C | C26H31NO3
